US05747498
4-Chloro-6,7-dimethoxyquinazoline (200 mg, 0.89 mmol) and 5-amino-3-chloroaniline (253 mg, 1.78 mmol) were combined in isopropanol (3 mL) and heated to reflux for 16 hours under an atmosphere of dry nitrogen. After cooling to 20° C. the mixture was diluted with methanol (5 mL) and the resulting precipitate was filtered and dried, in vacuo, to afford 252 mg (77%) of (3-amino-5-chlorophenyl)-(6,7-dimethoxyquinazolin-4-yl)amine hydrochloride (mp. 298°-301° C.; LC-MS: 331 (MH+)). A portion of this product (175 mg, 0.476 mmol) was dissolved in 80% acetic acid/H2O (12 mL), cooled to 0° C., and a solution of NaNO2 (36 mg, 0.516 mmol) in H2O (300 μL) was added. The solution was stirred for 10 minutes at 0° C. and NaN3 (33 mg, 0.50 mmol) in H2O (300 μL) was added. The reaction mixture was allowed to warm to 20° C. and stirred 16 hours. The resulting precipitate was filtered and dissolved in 10% methanol in CHCl3 and the solution was washed with saturated aqueous NaHCO3, and brine, dried over Na2 SO4, filtered and concentrated in vacuo to yield 59 mg (35%) of the title product as a yellow solid; mp 205°-206° C.

reactant | 4-Chloro-6,7-dimethoxyquinazoline | 0.89 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 5-amino-3-chloroaniline | 1.78 mmol, 253 mg | NC=1C=C(C=C(N)C1)Cl | C6H7ClN2
solvent | isopropanol | 3 mL | C(C)(C)O | C3H8O
solvent | methanol | 5 mL | CO | CH4O
product | (3-amino-5-chlorophenyl)-(6,7-dimethoxyquinazolin-4-yl)amine hydrochloride | 252 mg, 77% | Cl.NC=1C=C(C=C(C1)Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OC | InChI=1S/C16H15ClN4O2.ClH/c1-22-14-6-12-13(7-15(14)23-2)19-8-20-16(12)21-11-4-9(17)3-10(18)5-11;/h3-8H,18H2,1-2H3,(H,19,20,21);1H
